US05486525
To a solution of 3-(4-methylthiophenyl)indole (7.34 g, 30.7 mmol), prepared as in step 1, in dimethoxyethane (75 mL) was added powdered KOH (85%, 7.01 g, 125 mmol) and benzenesulfonyl chloride (4.25 mL, 33.3 mmol). A white precipitate formed immediately and the reaction mixture became quite warm. The reaction mixture was stirred for 1 hour during which time it cooled to ambient temperature. Water (50 mL) was added and the mixture was extracted with ethyl acetate. The organic phase was washed with H2O and brine, dried over Na2SO4, filtered, and concentrated in vacuo. 1-phenylsulfonyl-3-(4-methylthiophenyl)indole (8.89 g, 76% yield) was obtained by chromatography on silica gel (10%, then 20% ethyl acetate/hexanes).

reactant | 3-(4-methylthiophenyl)indole | 30.7 mmol, 7.34 g | CSC1=CC=C(C=C1)C1=CNC2=CC=CC=C12 | C15H13NS
reactant | KOH | 125 mmol, 7.01 g | [OH-].[K+]
reactant | benzenesulfonyl chloride | 33.3 mmol, 4.25 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | 50 mL | O | H2O
solvent | dimethoxyethane | 75 mL | C(OC)COC | C4H10O2
product | 1-phenylsulfonyl-3-(4-methylthiophenyl)indole | 8.89 g, 76% yield | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=C(C=C1)SC | C21H17NO2S2
